### PR TITLE
[Merged by Bors] - feat(Topology/Algebra/Module): Add more theorems for IsModuleTopology

### PR DESCRIPTION
**Pull request by matthewjasper**
Add theorems that surjective linear maps to the module topology are open.
Add IsModuleTopology instance for quotients.
Add IsModuleTopology instance for finite dimensional T2 vector spaces over a complete normed field and use it to shorten some proofs.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Algebra/Module/FiniteDimension.lean [hunk 1]
```diff
@@ -237,23 +238,25 @@ private theorem continuous_equivFun_basis_aux [T2Space E] {ι : Type v} [Fintype
     change Continuous (ξ.coord i)
     exact H₂ (ξ.coord i)
 
-/-- Any linear map on a finite dimensional space over a complete field is continuous. -/
-theorem LinearMap.continuous_of_finiteDimensional [T2Space E] [FiniteDimensional 𝕜 E]
-    (f : E →ₗ[𝕜] F') : Continuous f := by
+variable (E 𝕜) in
+theorem FiniteDimensional.isModuleTopology [T2Space E] [FiniteDimensional 𝕜 E] :
+    IsModuleTopology 𝕜 E :=
```
Comment (erdOne) [inline Mathlib/Topology/Algebra/Module/FiniteDimension.lean:243]: Can we make this an instance?

File: Mathlib/Topology/Algebra/Module/ModuleTopology.lean [hunk 2]
```diff
@@ -406,13 +407,39 @@ theorem isQuotientMap_of_surjective [τB : TopologicalSpace B] [IsModuleTopology
       rw [← (IsOpenQuotientMap.prodMap hφo hφo).continuous_comp_iff, hφ2]
       exact Continuous.comp hφo.continuous hA
 
+/-- A linear surjection between modules with the module topology is an open quotient map. -/
+theorem isOpenQuotientMap_of_surjective [τB : TopologicalSpace B] [IsModuleTopology R B]
```
Comment (erdOne) [inline Mathlib/Topology/Algebra/Module/ModuleTopology.lean:411]:
```suggestion
theorem isOpenQuotientMap_of_surjective [TopologicalSpace B] [IsModuleTopology R B]
```

File: Mathlib/Topology/Algebra/Module/ModuleTopology.lean [hunk 3]
```diff
@@ -406,13 +407,39 @@ theorem isQuotientMap_of_surjective [τB : TopologicalSpace B] [IsModuleTopology
...
+    {φ : A →ₗ[R] B} (hφ : Function.Surjective φ) :
+    IsOpenQuotientMap φ :=
+  have := toContinuousAdd R A
+  AddMonoidHom.isOpenQuotientMap_of_isQuotientMap <| isQuotientMap_of_surjective hφ
+
+omit [IsModuleTopology R A] in
+/-- A linear surjection to a module with the module topology is open. -/
+theorem isOpenMap_of_surjective [τB : TopologicalSpace B] [IsModuleTopology R B]
```
Comment (erdOne) [inline Mathlib/Topology/Algebra/Module/ModuleTopology.lean:419]:
```suggestion
theorem isOpenMap_of_surjective [TopologicalSpace B] [IsModuleTopology R B]
```

File: Mathlib/Topology/Algebra/Module/FiniteDimension.lean (hunk 1 above)
Comment (matthewjasper) [reply Mathlib/Topology/Algebra/Module/FiniteDimension.lean]: Apparently it breaks things with `IsModuleTopology.toContinuousSMul`, but maybe that shouldn't be an instance

Comment (riccardobrasca) [reply Mathlib/Topology/Algebra/Module/FiniteDimension.lean]: Can you please merger master and see if it still breaks something?

Comment (matthewjasper) [reply Mathlib/Topology/Algebra/Module/FiniteDimension.lean]: it indeed still breaks without scoping or removing the `IsModuleTopology.toContinuousSMul` instance

Comment (ocfnash) [reply Mathlib/Topology/Algebra/Module/FiniteDimension.lean]: I don't understand how making this an instance could cause trouble. I'm going to merge master (even though this shouldn't affect anything) and investigate now.

Comment (ocfnash) [reply Mathlib/Topology/Algebra/Module/FiniteDimension.lean]: I have successfully promoted this to an instance. Two fixes were necessary:

1. Add a `ContinuousSMul` shortcut instance in some Fourier theory.
2. Manually provide the `IsScalarTower` instance [Real.isScalarTower](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Instances/RealVectorSpace.html#Real.isScalarTower) in one proof

The first of these is straightforward: bumping `synthInstance.maxHeartbeats` was also sufficient to fix the issue and I believe the typeclass search was already borderline so it just got pushed over the edge.

I do not understand why the second is necessary: Lean just gives up quickly even though the instance exists. It might be worth debugging this (e.g., with `set_option diagnostics true`) but the issue is not with the new instances created here, so I'm inclined to ignore this for now.

**Comment by ocfnash** [comment]
!bench

**Comment by ocfnash** [comment]
!bench

**Comment by ocfnash** [comment]
!bench

**Comment by ocfnash** [comment]
I think this is ready to merge but I'd like someone else to make the final call since:

- I contributed some small commits
- There are some performance issues to consider: e.g., the fact that `isModuleTopologyOfFiniteDimensional` is only a `local instance` and the new shortcut instance just above `span_mFourierLp_closure_eq_top` (not strictly necessary because ultimately I made `isModuleTopologyOfFiniteDimensional` local)

maintainer merge

File: Mathlib/Analysis/RCLike/Lemmas.lean [hunk 4]
```diff
@@ -60,8 +60,9 @@ variable [NormedAddCommGroup E] [NormedSpace K E]
 This is not an instance because it would cause a search for `FiniteDimensional ?x E` before
 `RCLike ?x`. -/
 theorem proper_rclike [FiniteDimensional K E] : ProperSpace E := by
-  letI : NormedSpace ℝ E := RestrictScalars.normedSpace ℝ K E
-  letI : FiniteDimensional ℝ E := FiniteDimensional.trans ℝ K E
+  have : NormedSpace ℝ E := RestrictScalars.normedSpace ℝ K E
```
Comment (riccardobrasca) [inline Mathlib/Analysis/RCLike/Lemmas.lean:64]:
```suggestion
  let : NormedSpace ℝ E := RestrictScalars.normedSpace ℝ K E
```
It's more idiomatic.

File: Mathlib/Analysis/RCLike/Lemmas.lean [hunk 5]
```diff
@@ -60,8 +60,9 @@ variable [NormedAddCommGroup E] [NormedSpace K E]
...
+  have : IsScalarTower ℝ K E := Real.isScalarTower -- TODO Understand why we need to supply manually
```
Comment (riccardobrasca) [inline Mathlib/Analysis/RCLike/Lemmas.lean]: It's actually not needed!

File: Mathlib/Topology/Algebra/Module/FiniteDimension.lean [hunk 6]
```diff
@@ -237,23 +238,26 @@ private theorem continuous_equivFun_basis_aux [T2Space E] {ι : Type v} [Fintype
...
-    LinearMap.continuous_on_pi _
-  have :
-    Continuous
-      (f.comp (b.equivFun.symm : (Basis.ofVectorSpaceIndex 𝕜 E → 𝕜) →ₗ[𝕜] E) ∘ b.equivFun) :=
-    B.comp A
-  convert this
-  ext x
-  dsimp
-  rw [Basis.equivFun_symm_apply, Basis.sum_repr]
+  have continuousEquiv : E ≃L[𝕜] (Basis.ofVectorSpaceIndex 𝕜 E) → 𝕜 :=
```
Comment (riccardobrasca) [inline Mathlib/Topology/Algebra/Module/FiniteDimension.lean:250]:
```suggestion
  let continuousEquiv : E ≃L[𝕜] (Basis.ofVectorSpaceIndex 𝕜 E) → 𝕜 :=
```

File: Mathlib/Analysis/RCLike/Lemmas.lean (hunk 4 above)
Comment (ocfnash) [reply Mathlib/Analysis/RCLike/Lemmas.lean:64]: I opted for `have` because I wanted to express that it was just the existence of a `NormedSpace` structure which was needed (rather than which one it is).

I still think this is slightly preferable but if you're not convinced I'll just switch to `let`: obviously both are reasonable.

File: Mathlib/Analysis/RCLike/Lemmas.lean (hunk 5 above)
Comment (ocfnash) [reply Mathlib/Analysis/RCLike/Lemmas.lean]: Good point; this does become necessary if `isModuleTopologyOfFiniteDimensional` is a global instance but since it is not, I will excise this.

Comment (ocfnash) [inline Mathlib/Analysis/RCLike/Lemmas.lean]:
```suggestion
```

File: Mathlib/Topology/Algebra/Module/FiniteDimension.lean (hunk 1 above)
Comment (ocfnash) [reply Mathlib/Topology/Algebra/Module/FiniteDimension.lean]: In the end, we did not make `isModuleTopologyOfFiniteDimensional` a global instance so we can resolve this.

File: Mathlib/Topology/Algebra/Module/FiniteDimension.lean (hunk 6 above)
Comment (ocfnash) [reply Mathlib/Topology/Algebra/Module/FiniteDimension.lean:250]: As above, I slightly prefer `have` to emphasise that existence is all we need but just LMK if you're still not convinced and I'll switch to `let`.

File: Mathlib/Analysis/RCLike/Lemmas.lean (hunk 4 above)
Comment (riccardobrasca) [reply Mathlib/Analysis/RCLike/Lemmas.lean:64]: OK, I see. Can you add a comment explaining this?

**Comment by riccardobrasca** [comment]
bors d+

File: Mathlib/Analysis/RCLike/Lemmas.lean (hunk 4 above)
Comment (ocfnash) [reply Mathlib/Analysis/RCLike/Lemmas.lean:64]: Done, thanks for the review!

**Comment by ocfnash** [comment]
bors merge
